US06831083B2
Synthesis of 1-nicotinoyl-3-phenyl-1,4,5,6-tetrahydropyridazine
3-Phenyl-1,4,5,6-tetrahydropyridazine (2.4 g) synthesized in Reference Example 1 was dissolved in chloroform (50 ml). Thereto were added nicotinic acid chloride hydrochloride (2.6 g) and triethylamine (3.2 g) with ice-cooling. Stirring was conducted for 30 minutes. The reaction mixture was washed with water, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography to obtain 1.8 g of a title compound.

reactant | 3-Phenyl-1,4,5,6-tetrahydropyridazine | 2.4 g | C1(=CC=CC=C1)C1=NNCCC1 | C10H12N2
reactant | nicotinic acid chloride hydrochloride | 2.6 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-nicotinoyl-3-phenyl-1,4,5,6-tetrahydropyridazine | 1.8 g | C(C1=CN=CC=C1)(=O)N1N=C(CCC1)C1=CC=CC=C1 | C16H15N3O
